US06541505B1
4-[Pyridazin-3-yl]-Benzyl Alcohol.
To a solution of 4-[pyridazin-3-yl]-benzyl-(t-butyidimethylsilyl) ether (2.71 g, 9 mmol) (reference example 15, less polar product) is added a solution of tetra-n-butylammonium fluoride in THF (12 mL, 1M). The resulting solution is stirred for 15 minutes then diluted with ethyl acetate. This solution is washed with water then brine. The aqueous washings are back extrated with 10% methanol in CH2Cl2. The combined organic extracts are dried over MgSO4 then concentrated. The residue is purified by flash chromatography (eluting with ethyl acetate) to give 1.50 g of the title compound as a white solid. 1H NMR (CDCl3) d 2.28 (t, J=5 Hz, 1H), 4.79 (d, J=5 Hz, 2H), 7.50 (m, 3H), 7.85 (dd, J=8, 1 Hz, 1H), 8.05 (d, J=8 Hz, 2H), 9.13 (dd, J=5, 1 Hz, 1) MS (EI) m/z 186 (M)+.

reactant | 4-[pyridazin-3-yl]-benzyl-(t-butyidimethylsilyl) ether | 9 mmol, 2.71 g | N1=NC(=CC=C1)C1=CC=C(CC[Si](C)(C(C)(C)C)O[Si](C(C)(C)C)(C)CCC2=CC=C(C=C2)C=2N=NC=CC2)C=C1 | C34H46N4OSi2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 1M, 12 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[Pyridazin-3-yl]-Benzyl Alcohol | 1.50 g | N1=NC(=CC=C1)C1=CC=C(CO)C=C1 | C11H10N2O
